### ISSUE TITLE
All syntax using `|` delimiter should probably use match column rule

### ISSUE THREAD

**Issue by dselsam** [leanprover/lean4#452]
```lean
example (h : x ∨ y) : y ∨ x := by
  cases h with
  | inl hx => first
    | apply Or.inl; assumption
    | apply Or.inr; assumption
  | inr hy => exact Or.inl hy -- error: unknown tactic
```
This gives the cryptic error message `error: unknown tactic` despite the clear spacing. It works with braces around the `first`:
```lean
example (h : x ∨ y) : y ∨ x := by
  cases h with
  | inl hx => { first
    | apply Or.inl; assumption
    | apply Or.inr; assumption }
  | inr hy => exact Or.inl hy
```
but the suggestion is to change `first` (and any others using `|`) to enforce the `checkColGe` rule.
